US04070466
c. 2,4-dimethyl-8-ethyl-4H-pyrazolo[1,5-a]pyrazolo[4', 3': 5,6]pyrido[3,4-e]pyrimidin-5(8H)-one
2.7 g. of 8-ethyl-2-methyl-4H-pyrazolo[1,5-a]pyrazolo-[4',3':5,6]pyrido[3,4-e]pyrimidin-5(8H)-one (0.01 mol.) are added to a suspension of 0.03 g. of sodium hydride in 50 ml. of diethylene glycol dimethyl ether at reflux temperature. The temperature is maintained for one hour and then lowered to 120°. 2.8 g. of methyl iodide are added and heating is continued for 10 hours. The precipitated sodium iodide is filtered off, the solution evaporated to dryness and the residue recrystallized from ethyl-acetate, yield 1.9 g. (68%); m.p. 206°-207°.

reactant | 8-ethyl-2-methyl-4H-pyrazolo[1,5-a]pyrazolo-[4',3':5,6]pyrido[3,4-e]pyrimidin-5(8H)-one | 0.01 mol | C(C)N1N=CC2=C1N=CC=1C(NC=3N(C12)N=C(C3)C)=O | C13H12N6O
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
solvent | diethylene glycol dimethyl ether | COCCOCCOC | C6H14O3
product | 2,4-dimethyl-8-ethyl-4H-pyrazolo[1,5-a]pyrazolo[4', 3': 5,6]pyrido[3,4-e]pyrimidin-5(8H)-one | CC1=NN2C(N(C(C3=C2C2=C(N=C3)N(N=C2)CC)=O)C)=C1 | C14H14N6O
